US06472372B1
3-[6-(1H-Pyrazol-1-yl)-2-pyridinyl]-2-propenal
The title compound was prepared by a procedure analogous to Reference Example 30 by substituting 6-(1H-pyrazol-1-yl)-2-pyridinecarboxaldehyde (prepared as described in J. Med. Chem. 1998, 41, 5070) for the 4-(1H-pyrazol-1-yl)-benzaldehyde of Reference Example 30.

reactant | 6-(1H-pyrazol-1-yl)-2-pyridinecarboxaldehyde | N1(N=CC=C1)C1=CC=CC(=N1)C=O | C9H7N3O
reactant | 4-(1H-pyrazol-1-yl)-benzaldehyde | N1(N=CC=C1)C1=CC=C(C=O)C=C1 | C10H8N2O
product | 3-[6-(1H-Pyrazol-1-yl)-2-pyridinyl]-2-propenal | N1(N=CC=C1)C1=CC=CC(=N1)C=CC=O | C11H9N3O
